* C:\Users\dvone\Desktop\Engineering 3.2\E-Design 344\GitRepo\E344\LTSpice\Assignment 2\von_Eschwege_21785155_A2.asc
XU1 9V 0 5V LM7805
C5 5V 0 10µ
C6 9V 0 10µ
R3 N003 0 500k
R4 5V N003 500k
XU2 N003 VGround 5V 0 VGround TL081
R5 N002 N009 500k
C1 N010 0 77n
XU4 N010 N004 5V 0 Filtered TL081
R6 N010 N002 500k
Ra1 Filtered N004 10k
Rb1 0 N004 500k
C2 Filtered N002 77n
R7 Amplified N001 500k
R8 N001 VGround 10k
XU5 N006 N001 5V 0 Amplified TL081
R9 N006 0 500k
R10 N006 Filtered 10k
XU7 N005 VGround 5V 0 VoutBeatPulses LT1018
C8 N009 Stimulus 525n
R18 N009 VGround 500k
R21 VoutBeatPulses N005 100k
R22 N005 Amplified 10k
A1 /Q 0 VoutBeatPulses rc 0 /Q PWM 0 DFLOP Vhigh 5 Trise 10n
R1 rc /Q 500k
C3 rc 0 1µ
R19 N013 PWM 500k
C4 N013 0 1µ
R20 N014 N013 500k
C12 N014 0 1µ
R23 N015 N014 500k
C13 N015 0 1µ
R2 VoutRateAnalogue N016 900k
R11 N016 N011 41k
R12 N018 0 900k
R13 N018 Analogue 41k
R14 VGround N017 500k tol=60k
R15 N017 0 300k
XU3 N011 N017 N011 opamp Aol=100K GBW=10Meg
XU6 N018 N016 5V 0 VoutRateAnalogue level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R16 Analogue N015 500k
C7 Analogue 0 1µ
V5 N008 N007 PWL file=90.csv
V6 Stimulus N008 SINE({sineOffset} {sineAmplitude} {sineFreq})
V7 N007 0 {dcAmplitude}
V8 N012 0 9
R_Sense1 9V N012 0.010
* D.H. von Eschwege,  21785155\nDC = 2 V\nHeart rate pk = 38.85 mV
.incl TLC2272.lib
.incl LM78XX_RS.lib
.incl TL081.lib
.options numdgt = 7
.options plotwinsize = 0
.lib opamp.sub
.tran 0 {transtop} 0 {timestep} UIC
.include E344cfg.txt
* Don't change these -- used for auto-assessments.\nYou may modify input files while developing.\nFor submission: \n  * Use only 9V supply \n  * Connect "Stimulus" to your input\n  * Connect "VoutXXXX" to your output signals.\n  * Only one label name per net.
* Config file:
* Analysis setup:
* Battery
* Sensor-\nemulating \nstimulus
* Assessed nets:\nConnect to your outputs
.lib LM78XX_RS.lib
.lib LTC1.lib
.lib UniversalOpamps2.sub
.backanno
.end
